Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Rapid atrial fibrillation  
 
Major Surgical or Invasive Procedure:
AVJ ablation and single chamber SJM permanent pacemaker 
placement ___
 
History of Present Illness:
___ M history of coronary artery disease, hypertension, chronic 
atrial fibrillation on warfarin, history of cerebrovascular 
accident, chronic kidney disease stage III, initially presented 
to OSH ED ___ after a fall, underwent quadriceps rupture 
repair with his post-operative course complicated by rapid 
atrial fibrillation and pulmonary emboli.

Mr. ___ does not recall the events surrounding his initial 
hospitalization, though his son who is a reliable historian 
provided the account.  The story begins ___ when Mr. 
___ had mechanical fall going up stairs, which he attributes 
to new shoes and tripping.  He reportedly had x-rays of femur 
and ___ knee which were negative for fracture, and there was 
no intervention.  Approximately a week later, he was getting 
into a car when he fell.  He does not recall the 
circumstances/symtpoms surrounding the fall.  His son attributes 
the fall to his bad leg and reports that he was on the ground, 
unresponsive with his eyes open for approximately five minutes.  
He became responsive within five minutes.  EMS was called, and 
VS on their exam was normal and patient was able to go to 
hospital in son's car.  Son reports he was shaking as if he had 
chills on the car ride.  No urinary or bowel incontinence, no 
tongue biting at that time.  Patient does not recall the 
details.

Per OSH documentation, in OSH ED on ___, he was found to have 
rapid a-fib with HR up to 130 (or 180, documentation difficult 
to read).  Troponins negative x 3.  With persistent pain of 
___ knee, he was evaluated by Orthopedic Surgery and underwent 
surgical repair of quadriceps rupture.  Post-operative 
hospitalization was prolonged by atrial fibrillation and 
tachycardia, HR 80 to 120.  Seen by Cardiology, metoprolol was 
titrated and digoxin added.  Resting HR improved to ___, though 
patient became tachycardic with minimal ambulation. (Also of 
note, had pauses on telemetry, rare occasions of pause greater 
than two seconds.)  

INR was subtherapeutic (<2) for four days post-op, so checked 
CTA ___ which showed multiple bilateral segmental pulmonary 
emboli, R>L.  INR at that time 2.3.  Per pulmonology consultant 
at OSH, goal INR 2.5 to 3.0, so he was started on Lovenox bridge 
(apparently with intention to continue Lovenox for ___ days 
regardless of INR, though DC summary slightly difficult to 
interpret).  Also had post-op anemia at OSH, s/p transfusion 
with stable Hct over last few days.

On transfer, VS 98.3  113/77  72  18  99% RA.  He denies 
light-headedness, palpitations, chest pain or dyspnea.  INR from 
OSH indicates INR most recently 2.3.  
 
Past Medical History:
1. CARDIAC RISK FACTORS: (-)Diabetes, (+)Dyslipidemia, 
(+)Hypertension  
2. CARDIAC HISTORY: (+)CAD
- CABG:  
- PERCUTANEOUS CORONARY INTERVENTIONS:  
- PACING/ICD: 
3. OTHER PAST MEDICAL HISTORY:  
Chronic atrial fibrillation (diagnosed ___ years ago), on 
Coumadin with interruption during recent hospitalization course
Bilateral pulmonary emboli, recently diagnosed
History of CVA ___ years ago - mild residual deficits according to 
son (cannot buckle himself into car seat)
CKD, stage III (baseline Cr 1.3), followed by Dr. ___
Gout
___ quadriceps rupture s/p repair ___
Dental procedure 6 months ago
Glaucoma s/p 2 cataract surgeries, most recently 1.5 months ago
Basal cell carcinoma
 
Social History:
___
Family History:
No early MI, no sudden cardiac death.  Brother has pacemaker.
 
Physical Exam:
ADMISSION:
VS: On transfer, VS 98.3  113/77  72  18  99% RA.
General: WNWD male laying in bed, comfortable, conversational.
HEENT: No scleral icterus.  MMM. 
Neck: No appreciable JVD. No carotid bruits.  
CV: Regular rate, irregular rhythm, no appreciable m/g/r
Lungs: Clear to auscultation bilaterally
Abdomen: +BS, soft, nontender, nondistended. 
Ext: Warm, well-perfused.  ___ leg with knee immobilizer in 
place.  Long incision with staples, no erythema, no 
___ edema.  L AC fossa with indurated subcutaneous 
mass, no erythema.  
Neuro: CN ___ intact.  Pupils unequal in size but both 
reactive.  MOTOR: ___ elbow flexion/extension and ankle 
plantarflexion/dorsiflexion. SENSORY: Light touch intact distal 
UEs and LEs.  REFLEXES: Unable to elicit.  COORDINATION: FNF 
WNL.  Did not assess HNS or gait.
Skin: Dry.

DISCHARGE:
VS 97.8 (Tmax 98.5)  ___  18  97% RA  weight 94.1kg
Gen: Initially anxious appearing
HEENT: EOMI, slight erythema of left medial sclera
CV: RRR (paced), no m/g/r
Pulm: CTA anteriorly
Abd: +BS, soft, NTND
Ext: ___ groin dressing clean, dry, intact.  No tenderness to 
palpation.  No bruit/ecchymosis/erythema/hematoma.
Neuro: b/l ankle flexion/extension intact, light touch of feet 
intact bilaterally.
Psych: A&Ox3, initially anxious appearing but then improved.
 
Pertinent Results:
ADMISSION LABS
___ 08:00PM   ___ PTT-43.8* ___
___ 08:00PM   PLT COUNT-456*
___ 08:00PM   WBC-8.7 RBC-3.99* HGB-12.9* HCT-37.9* MCV-95 
MCH-32.2* MCHC-33.9 RDW-13.5
___ 08:00PM   CALCIUM-8.5 PHOSPHATE-2.7 MAGNESIUM-2.2
___ 08:00PM   estGFR-Using this
___ 08:00PM   GLUCOSE-115* UREA N-23* CREAT-1.4* SODIUM-141 
POTASSIUM-4.4 CHLORIDE-103 TOTAL CO2-31 ANION GAP-11

OTHER LABS
___ 05:40AM BLOOD Digoxin-0.6*

DISCHARGE LABS
___ 07:20AM BLOOD WBC-8.3 RBC-3.74* Hgb-12.4* Hct-35.7* 
MCV-96 MCH-33.2* MCHC-34.7 RDW-13.7 Plt ___
___ 07:20AM BLOOD Plt ___
___ 07:20AM BLOOD ___ PTT-34.3 ___
___ 07:20AM BLOOD Glucose-125* UreaN-17 Creat-1.3* Na-136 
K-3.8 Cl-102 HCO3-25 AnGap-13
___ 07:20AM BLOOD Calcium-8.4 Phos-3.2 Mg-2.0

MICROBIOLOGY
___ 9:00 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 10:40 am BLOOD CULTURE      2 OF 2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 10:28 am SPUTUM     Site: EXPECTORATED
      Source: Expectorated. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      3+  ___ per 1000X FIELD):   MULTIPLE ORGANISMS 
CONSISTENT WITH     
                                    OROPHARYNGEAL FLORA. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   RESPIRATORY CULTURE (Final ___: 
      MODERATE GROWTH Commensal Respiratory Flora. 
___ 11:14 am Rapid Respiratory Viral Screen & Culture
      Source: Nasopharyngeal swab. 

                            **FINAL REPORT ___

   Respiratory Viral Culture (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 
      Inadequate specimen for respiratory viral culture. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   Respiratory Viral Antigen Screen (Final ___: 
      Less than 60 columnar epithelial cells;. 
      Specimen inadequate for detecting respiratory viral 
infection by ___
      testing. 
      Interpret all negative results from this specimen with 
caution. 
      Negative results should not be used to discontinue 
precautions. 
      Recommend new sample be submitted for confirmation. 
      Reported to and read back by ___ ___ 10:48AM. 

___ 1:28 pm Rapid Respiratory Viral Screen & Culture
      Source: Nasopharyngeal swab. 

                            **FINAL REPORT ___

   Respiratory Viral Culture (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 
      Inadequate specimen for respiratory viral culture. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   Respiratory Viral Antigen Screen (Final ___: 
      Less than 60 columnar epithelial cells; Specimen 
inadequate for
      detecting respiratory viral infection by ___ testing. 
      Interpret all negative results from this specimen with 
caution. 
      Negative results should not be used to discontinue 
precautions. 
      Recommend new sample be submitted for confirmation. 
      Reported to and read back by ___ ___ 
10:20AM.
___ 5:29 pm SPUTUM      Source: Expectorated. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      <10 PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 

IMAGING/STUDIES
TTE ___
The left atrium is mildly dilated. The ___ atrium is 
moderately dilated. There is mild symmetric left ventricular 
hypertrophy with normal cavity size. There is mild regional left 
ventricular systolic dysfunction with probable mild basal to mid 
inferior hypokinesis. ___ ventricular chamber size is normal. 
with borderline normal free wall function. The aortic root is 
mildly dilated at the sinus level. There is no aortic valve 
stenosis. No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. Mild (1+) mitral regurgitation is 
seen. The tricuspid valve leaflets are mildly thickened. The 
estimated pulmonary artery systolic pressure is normal. There is 
a trivial/physiologic pericardial effusion. There is an anterior 
space which most likely represents a prominent fat pad. 

IMPRESSION: Probable mild hypokinesis of the basal to mid 
inferior segments. Borderline hypokinesis of the ___ 
ventricular. Mild mitral regurgitation.  

CXR ___
Lordotic positioning.  Heart size is borderline.  The aorta is 
mildly 
unfolded.  There is no CHF, frank consolidation, or effusion.  
Some patchy 
opacity in the ___ cardiophrenic region is noted.  This most 
likely 
represents some atelectasis or scarring.  An early pneumonic 
infiltrate is 
considered much less likely, cannot be entirely excluded.  There 
is minimal 
atelectasis at the left base. 

CXR PA/lateral ___
FINDINGS:  New left axillary pacemaker has been placed, with 
single lead
following the expected course and ending at the apex of the 
___ ventricle. 
Lung is well inflated without consolidation. An unexplained 
prevascular
mediastinal contour is projected anteriorly to the ___ lead in 
the lateral
view. A CT is recommended for further characterization. 
There is no pleural effusion or pneumothorax. 
Cardiomediastinal silhouette is normal except for minimal 
calcification at the
aortic arch.
 
IMPRESSION:  Correct positioning of left axillary pacemaker 
without
pneumothorax. Small opacity in the anterior mediastinum can be 
further
characterized by CT. 
 
Brief Hospital Course:
___ M history of coronary artery disease, hypertension, chronic 
atrial fibrillation on warfarin, history of cerebrovascular 
accident, chronic kidney disease stage III, transferred to ___ 
from outside hospital for further management of atrial 
fibrillation in setting of bilateral pulmonary emboli s/p ___ 
quadriceps rupture surgical repair (surgery ___.
 
ACTIVE DIAGNOSES

# Atrial fibrillation: Pt has h/o chronic atrial fibrillation.  
Had mostly normal heart rates at rest, though bursts of 
tachycardia occurred with minimal exertion.  Was treated with 
metoprolol, titrated to 75mg q 8 hrs due to some pauses on 
telemetry (evident at OSH as well as on telemetry here).  Also 
treated with digoxin 0.125mg daily.  Ability to exert himself 
was limited by tachycardia, which would impair rehab prospects 
s/p quadriceps repair, so he underwent ablation of AV junction 
and placement of single chamber SJM permanent pacemaker ___. 
 After ablation, digoxin was stopped and metoprolol was returned 
to his prior home dose.

Pt was anticoagulated with warfarin as well as Lovenox given 
development of pulmonary emboli while being on warfarin.  DCed 
Lovenox ___.  Continue warfarin with goal INR 2.5 to 3.5.

# Bilateral pulmonary emboli: Patient has been breathing 
comfortably on room air throughout most of admission.  TTE 
showed showed borderline HK of RV, RA mod dilated.  He was 
anticoagulated with warfarin and Lovenox initially given 
possible development of PE while on warfarin alone; Lovenox was 
discontinued ___.  Goal INR after ablation/pacemaker placement 
is 2.5 to 3.5. 

Pt had an episode of acute SOB one morning; ECG was negative for 
ischemic changes.  It resolved with ipratropium nebulizer and 
sitting upright.

# Upper respiratory infection: afebrile, no leukocytosis.  Has 
been having cough productive of yellow sputum and very hoarse 
voice.  Favor viral URI though nasopharyngeal swabs have been 
uninterpretable, and sputum cultures contaminated.  GNRs on 
initial stain concerning for Moraxella, Hemophilus as cause of 
laryngitis, though absence of leukocytosis or fever decreases 
suspicion for bacterial process. No antibiotics were initiated 
this hospitalization.  He was treated symptomatically with 
standing guaifenesin.  Pantoprazole was started in case hoarse 
voice was related to GERD.

# Post-op ___ quadriceps surgical repair ___: Pt without 
pain on admission.  Had orders for Tylenol PRN pain and did not 
require anything stronger.  Spoke with his primary orthopedic 
surgeon's office ___ and was told that staples should 
definitely come out (were supposed to be DCed nine days 
post-op).  Removed staples ___.  Also, brace was apparently 
going to be changed ___ per Nursing's sign-out, though this 
matter may be dealt with at rehab, per orthopedic surgeon's 
office.  

# Anxiety: Home clonazepam was initially changed to PRN, though 
pt did not tend to ask for medication despite anxiety, so it was 
returned to a standing dose.

# Constipation: Advanced bowel regimen ___.  

# Syncope: Pt had possible syncopal episode resulting in his 
presentation to OSH.  Etiology could have been atrial 
fibrillation, which could cause syncope associated with 
post-conversion pauses.  Carotid US at OSH was reportedly 
without hemodynamically significant disease.  Ddx also included 
orthostatic hypotension, hypovolemia.  He had no syncopal events 
at ___, though he mostly did not get out of bed.  No further 
work-up was undertaken at ___, aside from treating atrial 
fibrillation as above.

CHRONIC DIAGNOSES

# Chronic kidney disease: Baseline Cr 1.3.  Serum Cr was 1.4 on 
admission and 1.3 on discharge, stable throughout 
hospitalization with daily checking.  Attention to renal dosage 
of medications and avoidance of nephrotoxins was maintained.
 
# HTN: Pt was placed on metoprolol; other home antihypertensives 
(clonidine and lisinopril) were held while titrating metoprolol. 
 A dosage of 75mg q 8hrs was selected, as higher dosages failed 
to control exertional tachycardia but did result in pauses on 
telemetry.  Blood pressure was well controlled in hospital.  
After ablation, metoprolol was decreased to prior home dose of 
25mg BID.  Other antihypertensives were stopped.

# CAD: Continued metoprolol, ASA 81mg, and simvastatin.

# HLD: Continued home simvastatin. 
 
# Gout: No acute exacerbation of chronic disease.  Continued 
home allopurinol.

TRANSITIONAL ISSUES
# Anticoagulation: On warfarin for pulmonary emboli and atrial 
fibrillation. Goal INR 2.5 to 3.5 (elevated since PE may have 
developed while on warfarin).
# Atrial fibrillation s/p ablation and permanent pacemaker 
placement: Follow-up with device clinic within one week. Stop PO 
clindamycin after 72-hr course (take it through ___ for 
infection prophylaxis after pacemaker placement.
# Post-op ___ quadriceps repair ___: orthopedic surgeon is 
Dr. ___ # ___. Activity status: WBAT 
through RLE with knee immobilizer on in extension with 
crutches/walker. No range of movement of ___ knee until 
cleared by Dr. ___ surgeon. Follow-up with 
Dr. ___.  Adjustment of brace type as per his 
recommendations.
# History of hypertension: BP was well controlled in the 
hospital. Clonidine and lisinopril had been held from the start 
of admission, and metoprolol was decreased to his original home 
dose after the ablation. If hypertension is a problem after 
discharge, consider restarting lisinopril as an outpatient.
# CXR PA/lateral ___ revealed small opacity in the anterior 
mediastinum: advise further characterization by CT
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Tartrate 25 mg PO BID 
2. CloniDINE 0.1 mg PO BID 
3. Lisinopril 5 mg PO DAILY 
4. Simvastatin 20 mg PO DAILY 
5. Allopurinol ___ mg PO DAILY 
6. ClonazePAM 0.5 mg PO BID 
7. Warfarin 5 mg PO DAILY16 
8. Aspirin 81 mg PO DAILY 
9. Psyllium 1 PKT PO PRN constipation 
10. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP ___ EYE DAILY 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. ClonazePAM 0.5 mg PO BID 
4. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP ___ EYE DAILY 
5. Psyllium 1 PKT PO PRN constipation 
6. Simvastatin 20 mg PO DAILY 
7. Warfarin 4 mg PO DAILY16 
There have been recent changes to warfarin regimen. Please 
measure INR daily until level stabilizes. 
8. Acetaminophen 650 mg PO Q6H:PRN pain 
9. Bisacodyl ___AILY:PRN constipation 
10. Docusate Sodium 100 mg PO BID 
11. Guaifenesin ___ mL PO Q6H cough 
Stop taking this medication once cough improves. 
12. Senna 1 TAB PO BID:PRN constipation 
13. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
14. Pantoprazole 40 mg PO Q24H 
15. Metoprolol Tartrate 25 mg PO BID 
16. Clindamycin 300 mg PO Q8H 
Take through ___ inclusive, then stop. (For duration of 72hrs 
after pacemaker placement ___. 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: atrial fibrillation with rapid ventricular response 
(history of CVA), bilateral pulmonary emboli, status post 
quadriceps repair ___

Secondary: hypertension, hyperlipidemia, coronary artery disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a sincere pleasure taking care of you at ___ 
___.  As you know, you went to the hospital 
initially after a fall and an episode of unresponsiveness.  At 
the outside hospital, you underwent a repair of the quadriceps 
muscle.  You had a rapid heart rate and an irregular rhythm.  
Also, you developed blood clots in your lungs.  You were 
transferred to ___ for further management.  

Here, you were treated with blood thinners in order to treat the 
blood clots in your lungs.  Your rapid heart rate was controlled 
with oral medicines, though you continued to have a very fast 
heart rate with even minimal exertion.  Ultimately it was 
decided to place a pacemaker to help control the heart rate so 
that you can get back to activity, especially rehab for your 
knee surgery.  You tolerated the procedure well and were 
discharged to rehab. 

Please see the attached medication list for changes to your 
regimen.  

We wish you the very best in the recovery process.
 
Followup Instructions:
___